* C:\Users\mzahedi\Documents\Git\RoboFriend\simulation\vin\vin.asc
R1 N013 N009 47
R3 N014 N009 47
S1 Buck Vload Vload N012 DPST
R7 Vload N010 1k
D1 N010 0 D
M1 N012 N015 N016 N016 IRF3717
D2 N016 N012 1N4148
D3 N012 Vload 1N4148
XX2 Vload N015 N016 pot params: R=10k Val=72.5
R6 Vload N012 1k
V1 Vbat 0 PULSE(0 12V 1s 1ms 1ms 2s 3s 5)
V2 N014 0 PULSE(0 12V 1s 1ms 1ms 2s 3s 5)
V3 N013 0 PULSE(0 12V 1s 1ms 1ms 2s 3s 5)
M2 0 N011 N016 N016 IPB009N03L
R2 Vload N011 12k
D4 N016 N011 DMZ8551
C1 Vload N011 15n V=50V
R5 Vload ADC 100k
R8 ADC 0 27k
C2 ADC 0 100n
D9 0 ADC DMZ8551
D5 N016 0 1N4148
V4 SW 0 PULSE(0V 5.1V 2s 1m 1m 6s 8s 1)
S2 Vload Vbat SW 0 BTN
V5 12V 0 12V
V6 5V 0 5V
R10 N003 N007 0.01
R11 N003 N004 1k
R12 N007 N005 1k
R13 N004 0 33k
R14 N005 N006 33k
V7 OC 0 PULSE(0V 5V 2s 1m 1m 6s 8s 1)
R15 N007 P001 1k
D6 P001 0 D
XU1 N004 N005 5V 0 N006 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 N008 N006 5V 0 \OC_INT level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XX1 5V N008 0 pot params: R=10k Val=35
R17 N002 OC 1k
D7 N003 Vload 1N4148
R9 Vload N001 1k
M3 N003 N001 Vload Vload FDS6576
Q1 N001 N002 0 0 2N4124
R16 N002 0 10k
V8 3.3V 0 3.3V
R18 N007 0 12

* block symbol definitions
.subckt pot 1 2 3
R1 1 2 {Ra}
R2 2 3 {Rb}
.param Ra = R * (Val / 100)
.param Rb = R * (1 - (Val / 100))
.ends pot

.model D D
.lib C:\Users\mzahedi\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\mzahedi\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\mzahedi\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 15s 0 100m
.model DPST SW(Vt=10)
.model BTN SW(Vt=5)
.model DMZ8551 D(Is=0.6n Rs=.5 Cjo=150p nbv=5 bv=5.1 Ibv=1m Vpk=5.1 type=Zener)
* Overcurrent Protection\nShunt: 0,1 V / 10 A = 0,01 Ohm, P = 10² A * 0,01 Ohm = 1 W\nDifferential Amp: Ua = (U+ - U-) * R14 / R12 = 3.3 V\nPoti: Ua = 3.25 V
* over-current simuli: change the value of R18 to < 1.2 Ohm  for (12 V / 1.2 Ohm = 10A)
* todo: connect the output to the base of Q1?
* Relay
* Switch/Button
* Reverse\nPolarity\nProtection
* Vbat/Vload optic signal
* Vbat/Vload measurement
* Deep Discharge Protection
.lib UniversalOpamps2.sub
.backanno
.end
